US08222266B2
Preparation 20: 4-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methanesulfonyl-pyrimidine (Prep20)
A solution of 4-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrimidine (326 mg, 1.15 mmol) in MeOH (8 ml) was cooled at 0° C. and then an aqueous solution of oxone (2.31 g, 3.76 mmol in 8 ml of water) was slowly added. After stirring 2 hours at room temperature, the mixture was basified with 5% NaHCO3 and the product was extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated to give 364 mg of the title compound that was used in the next step without further purification (quantitative yield).

reactant | 4-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrimidine | 1.15 mmol, 326 mg | FC1(OC2=C(O1)C=CC=C2C2=NC(=NC=C2)SC)F | C12H8F2N2O2S
reactant | oxone | 3.76 mmol, 8 ml, 2.31 g | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 8 ml | CO | CH4O
product | 4-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methanesulfonyl-pyrimidine | 364 mg, quantitative yield | FC1(OC2=C(O1)C=CC=C2C2=NC(=NC=C2)S(=O)(=O)C)F | C12H8F2N2O4S
